US05827865
Methyl 2-hydroxy-3-(4-hydroxyphenyl)propanoate
A solution of methyl 3-(4-benzyloxyphenyl)-2-hydroxypropanoate (c.f. International Patent Appl. Publication No. WO9101337) (5.72 g) in methanol (120 mL) was added to an ice cooled suspension of 10% Palladium charcoal (1.90 g) in methanol (30 mL) under a nitrogen atmosphere. Solid ammonium formate (6.4 g) was added and the mixture heated at reflux for 15 minutes, then allowed to cool to room temperature. The catalyst was removed by filtering the reaction mixture through diatomaceous earth and the solvent evaporated. The residue was suspended in dilute hydrochloric acid (2M, 100 mL) and extracted with ethyl acetate (2×400 mL). The combined ethyl acetate solutions were washed with water (400 mL), brine (400 mL), dried (MgSO4) and evaporated. The resulting gum was chromatographed on silica gel with 1.5% methanol in dichloromethane as eluent to afford the title compound, mp 42°-43° C.

reactant | methyl 3-(4-benzyloxyphenyl)-2-hydroxypropanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OC)O | C17H18O4
reactant | ammonium formate | 6.4 g | C(=O)[O-].[NH4+]
solvent | methanol | 120 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
catalyst | Palladium charcoal | 1.90 g | [Pd] | Pd
product | Methyl 2-hydroxy-3-(4-hydroxyphenyl)propanoate | OC(C(=O)OC)CC1=CC=C(C=C1)O | C10H12O4
